US03948914
10 ml of triethylamine are added to 8.05 g (0.035 mol) of 2-methyl-4-chloro-5-nitro-6-isopropylamino-pyrimidine. While cooling with ice, 7.3 g (0.1 mol) of sec- butylamine are slowly added dropwise and the mixture is stirred for 16 hours at room temperature. The reaction solution is evaporated, the residue suspended in 500 ml of water and extracted 3 times with ether, to yield 9.0 g of 2-methyl-4-isopropylamino-6-sec.butylamino-5-nitro-pyrimidine (36.5 %) as an oil.

reactant | 2-methyl-4-chloro-5-nitro-6-isopropylamino-pyrimidine | 0.035 mol, 8.05 g | CC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])NC(C)C | C8H11ClN4O2
reactant | sec- butylamine | 0.1 mol, 7.3 g | C(C)(CC)N | C4H11N
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 2-methyl-4-isopropylamino-6-sec.butylamino-5-nitro-pyrimidine | 9.0 g, 36.5 % | CC1=NC(=C(C(=N1)NC(C)C)[N+](=O)[O-])NC(C)CC | C12H21N5O2
